US06949579B2
20 cm3 of tetrabutylammonium fluoride as a 1M solution in tetrahydrofuran are added to 2 g of N-[5-bromo-6-[4-(phenylmethoxy)phenyl]-1-[[2-(trimethylsilyl)ethoxy]-methyl]-1H-indazol-3-yl]butanamide, described previously, in 60 μm3 of tetrahydrofuran, and the mixture is refluxed for 18 hours; after cooling, 75 cm3 of ethyl acetate are added and the organic phase is washed successively with 75 cm3 of saturated sodium hydrogen carbonate solution and with 75 cm3 of saturated sodium chloride solution. The organic phase is separated out after settling of the phases has taken place, dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (2.7 kPa; 50° C.) to give 2 g of crude product, which is purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 3.5 cm), eluting with a cyclohexane/ethyl acetate mixture (70/30 by volume). The fractions containing the expected product are combined and evaporated under reduced pressure (2 kPa; 50° C.) and the residue is taken up in 50 cm3 of diisopropyl ether, filtered off, washed with 2×10 cm3 of diisopropyl ether and dried (90 Pa; 45° C.) to give 500 mg of N-[5-bromo-6-[4-(phenylmethoxy)phenyl]-1H-indazol-3-yl]butanamide in the form of a solid melting at 20° C.

reactant | tetrabutylammonium fluoride | 20 cm3 | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | N-[5-bromo-6-[4-(phenylmethoxy)phenyl]-1-[[2-(trimethylsilyl)ethoxy]-methyl]-1H-indazol-3-yl]butanamide | 2 g | BrC=1C=C2C(=NN(C2=CC1C1=CC=C(C=C1)OCC1=CC=CC=C1)COCC[Si](C)(C)C)NC(CCC)=O | C30H36BrN3O3Si
reactant | ethyl acetate | 75 cm3 | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 μm3 | O1CCCC1 | C4H8O
product | N-[5-bromo-6-[4-(phenylmethoxy)phenyl]-1H-indazol-3-yl]butanamide | 500 mg | BrC=1C=C2C(=NNC2=CC1C1=CC=C(C=C1)OCC1=CC=CC=C1)NC(CCC)=O | C24H22BrN3O2
